US07354932B2
To a 0° C. solution of methyl 4-[(t-butoxycarbonyl)-amino]-4-phenylbutanoate (293 mg, 1.0 mmol) in dichloromethane (25 mL) was added Dibal-H (3 mL of a 1.0 M solution in dichloromethane, 3.0 mmol). The mixture was then stirred at 0° C. for 2 hours before being quenched with a saturated aqueous sodium potassium tartrate solution (10 mL). The biphasic mixture was then rapidly stirred for approximately 45 minutes, until the aqueous and organic layers clarified. The aqueous and organic layers were then separated and the aqueous layer was extracted twice with dichloromethane. The combined organic fractions were dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to afford a pale yellow residue, which was purified by silica gel flash chromatography (1:1 hexanes:ethyl acetate) to afford 4-[(t-butoxycarbonyl)-amino]-4-phenylbutanol as a colourless oil in a yield of 138 mg (52%). 1H NMR (CDCl3) δ 1.43 (s, 9H), 1.45 (m, 2H), 1.56 (m 2H), 2.71 (br s, 1H(OH)), 3.54 (t, 2H, J=6.9 Hz), 4.56 (m, 1H), 5.22 (br s, 1H (NH)), 7.16-7.26 (m, 5H).

reactant | methyl 4-[(t-butoxycarbonyl)-amino]-4-phenylbutanoate | 1.0 mmol, 293 mg | C(C)(C)(C)OC(=O)NC(CCC(=O)OC)C1=CC=CC=C1 | C16H23NO4
reactant | Dibal-H | CC(C)C[Al]CC(C)C
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 4-[(t-butoxycarbonyl)-amino]-4-phenylbutanol | C(C)(C)(C)OC(=O)NC(CCCO)C1=CC=CC=C1 | C15H23NO3
